US04293674
The method of Example 1 was substantially repeated with 2,5-cyclohexadienylmethanol (40.86 g, 0.37 mol, containing ca. 13% 2-cyclohexenylmethanol), methyl methacrylate (159 mL, 1.5 mol), phenothiazine (0.1 g), and tetraisopropyl titanate (2.0 mL). The excess methyl methacrylate was distilled at 70 mm and the product was distilled to give 57.5 g (87% yield) of clear, colorless liquid 2,5-cyclohexadienylmethyl methacrylate, bp 58° C./0.15 mm to 54° C./0.12 mm. IR (film): ν 3030, 2941, 1709, 1629, 1445, 1309, 1287, 1152, 1009, 979, 934, 873, 810 cm-1. 220 MHz 1H NMR: δ 6.07 (1H, m, methacrylate vinyl), 5.8 (2H, m, vinyl), 5.6 (2H, m, vinyl), 5.50 (1H, m, methacrylate vinyl), 4.04 (2H, d, J=6), 3.1 (1H, m, allylic methine), 2.6 (2H, M, allylic methylene), and 1.93 (3H, m, allylic CH3); the minor impurity of cyclohexenylmethyl methacrylate showed a broad envelope of signals from δ 2.0 to 1.3 and a 6 Hz doublet (--CH2O) at 4.02 which showed it to be 13% of the mixture. 22.63 MHz 13C NMR: δ 167.1, 137.7, 126.3, 125.4, 125.2, 68.0, 35.7, 26.5, 18.3.

reactant | 2,5-cyclohexadienylmethanol | 0.37 mol, 40.86 g | C1(C=CCC=C1)CO | C7H10O
reactant | methyl methacrylate | 1.5 mol, 159 mL | C(C(=C)C)(=O)OC | C5H8O2
reactant | phenothiazine | 0.1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
catalyst | tetraisopropyl titanate | 2.0 mL | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 2,5-cyclohexadienylmethyl methacrylate | 87% yield | C(C(=C)C)(=O)OCC1C=CCC=C1 | C11H14O2
